US08629137B2
Step 2: 6-(3-bromo-4-fluoro-benzoyl)-4-methyl-3H-benzoxazol-2-one
2.23 g (9.40 mmol) 3-bromo-4-fluoro-benzoic acid chloride, 1.40 g (9.40 mmol) 4-methyl-3H-benzoxazol-2-one and 5.01 g (37.60 mmol) aluminium trichloride were heated to 125° C. for 1.5 h with stirring. After cooling to RT the mixture was mixed with ice water. The precipitate formed was suction filtered and washed with water. Then the precipitate was triturated with MeOH, suction filtered, washed with MeOH and dried i. vac.

reactant | 3-bromo-4-fluoro-benzoic acid chloride | 9.40 mmol, 2.23 g | BrC=1C=C(C(=O)Cl)C=CC1F | C7H3BrClFO
reactant | 4-methyl-3H-benzoxazol-2-one | 9.40 mmol, 1.40 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 37.60 mmol, 5.01 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 6-(3-bromo-4-fluoro-benzoyl)-4-methyl-3H-benzoxazol-2-one | BrC=1C=C(C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)C=CC1F | C15H9BrFNO3
